US05688946
A suspension of 250 mg (0.4 mmol) of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide, 60 mg of 18-crown-6, 250 mg of potassium carbonate and 2 ml of chloromethyl pivalate is stirred at room temperature overnight. Thereafter, the reaction mixture is taken up in ethyl acetate and the ethyl acetate solution is washed with saturated ammonium chloride solution. After drying over sodium sulphate the solution is evaporated under reduced pressure and subsequently, for purification, the crude product obtained (1.3 g) is chromatographed on 120 g of silica gel using a 200:10:1 mixture of methylene chloride, methanol and ammonia as the eluent. There are obtained 145 mg of [4-[(S)-2-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-2-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]ethyl]imidazol-1-yl]methyl pivalate as a colourless solid; MS: 745 (M+H)+.

reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide | 0.4 mmol, 250 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H50N4O6S
reactant | 18-crown-6 | 60 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 2 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-[(S)-2-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-2-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]ethyl]imidazol-1-yl]methyl pivalate | 145 mg | C(C(C)(C)C)(=O)OCN1C=NC(=C1)C[C@@H](C(N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)=O)NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C)C)=O | C39H60N4O8S
